** sch_path: /home/instaneous/diff_pair_loadanalysis2.sch
**.subckt diff_pair_loadanalysis2
V1 net1 0 1.8
V2 net3 0 0.8
V3 net2 0 DC 1.1 AC 0.5 0
V4 net4 0 DC 1.1 AC 0.5 180
x1 net1 VOUT2 VOUT1 net2 net4 VT net3 diff_pair_load2
**** begin user architecture code


.lib /home/instaneous/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130B/libs.tech/ngspice/sky130.lib.spice tt
.control
 dc V3 0 1.8 0.01
plot v(vout1) v(vout2)
plot v(vt)
.endc


**** end user architecture code
**.ends

* expanding   symbol:  diff_pair_load2.sym # of pins=7
** sym_path: /home/instaneous/diff_pair_load2.sym
** sch_path: /home/instaneous/diff_pair_load2.sch
.subckt diff_pair_load2 VDD VOUT2 VOUT1 VIN1 VIN2 VT VB
*.ipin VIN1
*.ipin VIN2
*.ipin VDD
*.iopin VOUT1
*.iopin VOUT2
*.ipin VB
*.iopin VT
XM1 VOUT1 VIN1 VT GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=100 m=100
XM2 VOUT2 VIN2 VT GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=100 m=100
XM3 VOUT1 VOUT1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=100 m=100
XM4 VOUT2 VOUT2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=100 m=100
XM5 VT VB 0 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=100 m=100
.ends

.end
