** sch_path: /home/instaneous/diff_pairbasic.sch
**.subckt diff_pairbasic
x1 net1 net5 net6 net3 net4 net2 diff_pair
VDD net1 0 1.8
VB net2 0 0.65
VIN1 net3 0 DC 1 AC 0.5 0
VIN2 net4 0 DC 1 AC 0.5 180
**** begin user architecture code


.lib /home/instaneous/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130B/libs.tech/ngspice/sky130.lib.spice tt
.dc vin1 0 1.8 0.01
.save all


**** end user architecture code
**.ends

* expanding   symbol:  diff_pair.sym # of pins=6
** sym_path: /home/instaneous/diff_pair.sym
** sch_path: /home/instaneous/diff_pair.sch
.subckt diff_pair VDD VOUT1 VOUT2 VIN1 VIN2 VB
*.ipin VIN1
*.ipin VIN2
*.ipin VB
*.ipin VDD
*.iopin VOUT1
*.iopin VOUT2
XM1 VOUT1 VIN1 net1 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 VOUT2 VIN2 net1 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM3 net1 VB 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XR1 VOUT1 VDD 0 sky130_fd_pr__res_high_po W=1 L=1 mult=1
XR2 VOUT2 VDD 0 sky130_fd_pr__res_high_po W=1 L=1 mult=1
.ends

.end
